US06277862B1
(S)-N-(a-ethylbenzyl)-3-[2-(4-pyridylacetyl)aminoethoxy]-2-phenylquinoline-4-carboxamide
0.41 g (2.4 mmol) of 4-pyridylacetic acid hydrochloride were suspended in 80 ml of CH2Cl2; the suspension was cooled to 0° C. and 0.33 ml (2.4 mmol) of TEA, 0.64 g (4.7 mmol) of HOBT and 1.0 g (2.4 mmol) of (S)-N-(α-ethylbenzyl)-3-(2-aminoethoxy)-2-phenylquinoline-4-carboxamide (compound of Description 4) were added. 0.58 g (2.8 mmol) of DCC, dissolved in 10 ml of CH2Cl2, were added dropwise and the reaction mixture was stirred at 0° C. for 1 h and at room temperature overnight. The precipitated dicyclohexylurea was filtered off and the filtrate was washed with 20% citric acid, sat. sol. NaCl and brine, dried over Na2SO4 and evaporated in vacuo to dryness. The crude product was purified by flash column chromatography on 230-400 mesh silica gel, eluting with a mixture of CH2Cl2/MeOH 95:5 containing 0.5% NH4OH (28%), to yield, after trituration with i-Pr2O, 0.85 g of the title compound.

reactant | 4-pyridylacetic acid hydrochloride | 2.4 mmol, 0.41 g | Cl.N1=CC=C(C=C1)CC(=O)O
reactant | HOBT | 4.7 mmol, 0.64 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (S)-N-(α-ethylbenzyl)-3-(2-aminoethoxy)-2-phenylquinoline-4-carboxamide | 2.4 mmol, 1.0 g | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)OCCN | C27H27N3O2
reactant | DCC | 2.8 mmol, 0.58 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | i-Pr2O | O(C(C)C)C(C)C | C6H14O
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (S)-N-(a-ethylbenzyl)-3-[2-(4-pyridylacetyl)aminoethoxy]-2-phenylquinoline-4-carboxamide | 0.85 g | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)OCCNC(CC1=CC=NC=C1)=O | C34H32N4O3
